US06303816B1
2-(4-Isopropylphenyl)propionitrile
In a 250 ml flask, 4-isopropylphenylacetonitrile 8.00 g (50.2 mmol) was dissolved in tetrahydrofuran (150 ml) under a nitrogen atmosphere. The solution was cooled to −78° C. and lithium bis(trimethylsilyl)amide (1M in tetrahydrofuran, 52.8 ml (52.8 mmol) added. The resulting mixture was stirred at −78° C. for 1 hour. To this reaction mixture was added iodomethane 3.29 ml (52.8 mmol). The resulting mixture was slowly allowed to warm to ambient temperature over 16 hours then quenched with 0.2M hydrochloric acid and extracted twice with diethyl ether. The organic fractions were combined, dried (MgSO4) and concentrated under vacuo. Chromatography (SiO2, 20% ethyl acetate/hexanes) gave 6.32 g (73%) of the title compound.

reactant | 4-isopropylphenylacetonitrile | 50.2 mmol, 8.00 g | C(C)(C)C1=CC=C(C=C1)CC#N | C11H13N
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 52.8 mmol, 3.29 ml | IC | CH3I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Isopropylphenyl)propionitrile | 6.32 g, 73% | C(C)(C)C1=CC=C(C=C1)C(C#N)C | C12H15N
